US05478858
To a solution of 1-tert-butoxycarbonyl-7-fluoro-4-methyl-5-nitrobenzimidazole (0.776 g) in methanol (100 mL)/ethyl acetate (50 mL) is added palladium-on-carbon (10%, 0.1 g) and ammonium formate (0.663 g). The mixture is stirred at room temperature for 5 hours, then filtered on Celite, with methanol wash of the solids. The filtrate is rotary evaporated and the residue partitioned between water and ethyl acetate. The organic layer is dried over magnesium sulfate, filtered and rotary evaporated. The residue is purified by flash chromatography on silica gel, eluting with 25% ethyl acetate/hexane to afford 5-amino-1-tert-butoxycarbonyl-7-fluoro-4-methylbenzimidazole as a yellow oil.

reactant | 1-tert-butoxycarbonyl-7-fluoro-4-methyl-5-nitrobenzimidazole | 0.776 g | C(C)(C)(C)OC(=O)N1C=NC2=C1C(=CC(=C2C)[N+](=O)[O-])F | C13H14FN3O4
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
reactant | ammonium formate | 0.663 g | C(=O)[O-].[NH4+]
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium-on-carbon | 0.1 g | [Pd] | Pd
product | 5-amino-1-tert-butoxycarbonyl-7-fluoro-4-methylbenzimidazole | NC1=C(C2=C(N(C=N2)C(=O)OC(C)(C)C)C(=C1)F)C | C13H16FN3O2
